US04629739
trans-N-[2-(Diethylamino)cyclohexyl]-4-[(methylsulfonyl)amino]benzamide hydrochloride
To a solution of 6.31 g (27 mmole) of 4-[(methylsulfonyl)amino]benzoyl chloride in 25 ml of tetrahydrofuran (THF) cooled to 0° C. under a nitrogen atmosphere, add dropwise a solution of 4.26 g (25 mmole) of trans-N,N-diethyl-1,2-cyclohexanediamine in 10 ml of THF. Stir the reaction mixture for 1 hr, then collect the resulting solid by filtration. Recrystallize the solid from ethanol to obtain the title compound.

reactant | 4-[(methylsulfonyl)amino]benzoyl chloride | 27 mmole, 6.31 g | CS(=O)(=O)NC1=CC=C(C(=O)Cl)C=C1 | C8H8ClNO3S
reactant | trans-N,N-diethyl-1,2-cyclohexanediamine | 25 mmole, 4.26 g | C(C)N([C@H]1[C@@H](CCCC1)N)CC | C10H22N2
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | THF | 10 ml | O1CCCC1 | C4H8O
product | trans-N-[2-(Diethylamino)cyclohexyl]-4-[(methylsulfonyl)amino]benzamide hydrochloride | Cl.C(C)N([C@H]1[C@@H](CCCC1)NC(C1=CC=C(C=C1)NS(=O)(=O)C)=O)CC | InChI=1S/C18H29N3O3S.ClH/c1-4-21(5-2)17-9-7-6-8-16(17)19-18(22)14-10-12-15(13-11-14)20-25(3,23)24;/h10-13,16-17,20H,4-9H2,1-3H3,(H,19,22);1H/t16-,17-;/m1./s1
